US08106064B2
3,5-Dimethylbenzoic acid (50 g, 0.33 M, Aldrich) was suspended in thionyl chloride (150 mL) and DMF (0.5 mL) was added. The mixture was then refluxed for 2.5 hr. Excess thionyl chloride was evaporated in vacuo and the residue was added dropwise to ammonium hydroxide solution (ACS, 250 ml) cooled in an ice bath. The mixture was stirred for further 30 min. The white precipitate was then filtered, washed with water several times, and dried by standing on air. The crude product was dissolved in MC, washed with water, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to afford 42 g (85%) of 3,5-dimethylbenzamide as a white solid. m.p. 148-149° C. 1H NMR (200 MHz, CDCl3) δ 2.35 (6H, s), 6.01 (2H, br. s), 7.15 (1H, s), 7.42 (2H, s).

reactant | 3,5-Dimethylbenzoic acid | 0.33 M, 50 g | CC=1C=C(C(=O)O)C=C(C1)C | C9H10O2
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | thionyl chloride | 150 mL | S(=O)(Cl)Cl | Cl2OS
product | 3,5-dimethylbenzamide | 42 g, 85% | CC=1C=C(C(=O)N)C=C(C1)C | C9H11NO
